US05312961
2-amino-7-(ethoxycarbonylpentan-5-yloxy)tetralin hydrochloride
A solution of 2-benzylamino-7-(ethoxycarbonylpentan-5-yloxy) tetralin hydrochloride (8.9 g), prepared as described in Example 1, in 95% ethanol (150 ml) is hydrogenated at atmospheric pressure and 60° C. in the presence of 10% Pd/C (1 g) as the hydrogenation catalyst. After 3 hours the catalyst is filtered off, the filtrate is concentrated to dryness and the residue is twice taken up in absolute ethanol (100 ml) and concentrated to dryness. The obtained product is then triturated with acetone (100 ml), filtered and crystallized from isopropanol (50 ml) affording 5.5 g of the compound indicated in the title. M.p. 114°-117° C.

reactant | 2-benzylamino-7-(ethoxycarbonylpentan-5-yloxy) tetralin hydrochloride | 8.9 g | Cl.C(C1=CC=CC=C1)NC1CC2=CC(=CC=C2CC1)OC(CCCC)C(=O)OCC
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 2-amino-7-(ethoxycarbonylpentan-5-yloxy)tetralin hydrochloride | 5.5 g | Cl.NC1CC2=CC(=CC=C2CC1)OC(CCCC)C(=O)OCC | InChI=1S/C18H27NO3.ClH/c1-3-5-6-17(18(20)21-4-2)22-16-10-8-13-7-9-15(19)11-14(13)12-16;/h8,10,12,15,17H,3-7,9,11,19H2,1-2H3;1H
